US03996364
To 15 g. of 9-(N-methylcarbamoyloxy)xanthene, suspended in 200 ml. of dry ether, is added 18 ml. of glacial acetic acid with stirring. After 1 hour, the lower acid layer is removed. The ether phase is then cooled, neutralized with cold aqueous sodium bicarbonate, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue is recrystallized from benzene-hexane to give 9-acetoxyxanthene, m.p. 109°-112° C.

reactant | 9-(N-methylcarbamoyloxy)xanthene | CNC(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H13NO3
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9-acetoxyxanthene | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
